US08791134B2
4-nitrosooxan-4-yl 2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetate was synthesized from tetrahydropyran-4-one oxime and bis(2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetic acid) iodobenzene and using conditions of General Method 4. 1H NMR (500MHz, CHLOROFORM-d) δ 4.29-4.47 (2H, m), 4.10-4.25 (5H, m), 3.65-3.83 (2H, m), 2.47-2.58 (1H, m), 2.34-2.45 (1H, m), 2.21-2.31 (2H, m), 2.20 (3H, s), 2.13 (6H, s), 2.04-2.09 (2H, m).

reactant | tetrahydropyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | bis(2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetic acid) iodobenzene | IC1=CC=CC=C1.C(C)(=O)OCC(COC(C)=O)N(C(C)=O)CC(=O)O.C(C)(=O)OCC(COC(C)=O)N(C(C)=O)CC(=O)O
product | 4-nitrosooxan-4-yl 2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetate | C(C)(=O)OCC(COC(C)=O)N(C(C)=O)CC(=O)OC1(CCOCC1)N=O | C16H24N2O9
